US08110687B2
A mixture of tert-butyl [3-{[(7-{[2-(1H-pyrazol-4-yl)pyridin-4-yl]oxy}-1,2,3,4-tetrahydronaphthalen-2-yl)carbonyl]amino}-5-(trifluoromethyl)benzyl]carbamate (0.238 g, 0.39 mmol) and 4M of HCl in dioxane (4 mL) was allowed to stir at rt for 1 h. The solvents were evaporated to give N-[3-(aminomethyl)-5-(trifluoromethyl)phenyl]-7-{[2-(1H-pyrazol-4-yl)-pyridin-4-yl]oxy}-1,2,3,4-tetrahydronaphthalene-2-carboxamide I-252. 1H NMR (400 MHz, d6-DMSO, HCl salt) δ: 10.83 (s, 1H), 8.71 (br s, 2H), 8.36-8.56 (m, 4H), 8.09 (s, 1H), 8.03 (s, 1H), 7.89 (s, 1H), 7.60 (s, 1H), 7.29 (d, 1H), 7.04-7.13 (m, 2H), 6.93-6.97 (m, 1H), 4.05-4.12 (m, 2H), 2.79-3.01 (m, 5H), 2.09-2.17 (m, 1H), and 1.76-1.88 (m, 1H). LCMS: (FA) ES+508.3, ES−506.4.

reactant | tert-butyl [3-{[(7-{[2-(1H-pyrazol-4-yl)pyridin-4-yl]oxy}-1,2,3,4-tetrahydronaphthalen-2-yl)carbonyl]amino}-5-(trifluoromethyl)benzyl]carbamate | 0.39 mmol, 0.238 g | N1N=CC(=C1)C1=NC=CC(=C1)OC1=CC=C2CCC(CC2=C1)C(=O)NC=1C=C(CNC(OC(C)(C)C)=O)C=C(C1)C(F)(F)F | C32H32F3N5O4
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | N-[3-(aminomethyl)-5-(trifluoromethyl)phenyl]-7-{[2-(1H-pyrazol-4-yl)-pyridin-4-yl]oxy}-1,2,3,4-tetrahydronaphthalene-2-carboxamide | NCC=1C=C(C=C(C1)C(F)(F)F)NC(=O)C1CC2=CC(=CC=C2CC1)OC1=CC(=NC=C1)C=1C=NNC1 | C27H24F3N5O2
